US07678826B2
A3) Preparation of 2-[2-(2-benzyloxycarbonylmethoxy-5-chloro-benzyl)-4-chloro-phenoxy]-propionic acid
A solution of 2-[2-(2-benzyloxycarbonylmethoxy-5-chloro-benzyl)-4-chloro-phenoxy]-propionic acid tert-butyl ester (1.736 g, 3.18 mmol) in DCM (10 mL) is treated with TFA (5 mL) and allowed to stir at RT for 1 hour. The solvent is removed in vacuo to yield the titled compound as an off-white solid.

reactant | 2-[2-(2-benzyloxycarbonylmethoxy-5-chloro-benzyl)-4-chloro-phenoxy]-propionic acid tert-butyl ester | 3.18 mmol, 1.736 g | C(C)(C)(C)OC(C(C)OC1=C(C=C(C=C1)Cl)CC1=C(C=CC(=C1)Cl)OCC(=O)OCC1=CC=CC=C1)=O | C29H30Cl2O6
reactant | TFA | 5 mL | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | DCM | 10 mL | C(Cl)Cl | CH2Cl2
product | 2-[2-(2-benzyloxycarbonylmethoxy-5-chloro-benzyl)-4-chloro-phenoxy]-propionic acid | C(C1=CC=CC=C1)OC(=O)COC1=C(CC2=C(OC(C(=O)O)C)C=CC(=C2)Cl)C=C(C=C1)Cl | C25H22Cl2O6
